* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 10:57:14 am ist
.include lm555n.sub

* Plotting option vplot8_1
.ic v(5)=0
* 74ls109
v1  3 0 5
r3  6 0 1000
c2  7 0 0.01e-6
c1  5 0 100e-12
r2  8 5 10000
r1  3 8 1000
x1  0 5 6 3 7 5 8 3 lm555n
a1 [3 0 6 3 3] [3_in 0_in 6_in 3_in 3_in] u3adc
a2 3_in ~0_in 6_in ~3_in ~3_in 2_out 1_out u3
a3 [2_out 1_out] [2 1]  u3dac
.model u3 d_jkff
.model u3adc adc_bridge(in_low=0.8 in_high=2.0)
.model u3dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)

.tran  50e-09 5e-06 0e-00

* Control Statements 
.control
run
plot v(6) v(2) 
.endc
.end
