* eeschema netlist version 1.1 (spice format) creation date: monday 13 may 2013 02:05:33 pm ist

v3  0 5 23
V_u1 6 4 0
* Plotting option vplot8_1
v1  2 0 sine( 17.9 1000  )
v2  1 0 23
r1  4 0 8
q2 5 2 6 pnp
q1 1 2 6 npn

.tran  1e-00 3e-00 0e-00

* Control Statements 
.control
run
plot i(V_u1)
plot v(2) v(6) 
.endc
.end
