* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 08:58:23 pm ist

v1  3 0 5v
v2  2 0 10v
r1  6 3 100
* Plotting option vplot8_1
V_u2 0 4 0
V_u1 1 5 0
r2  2 5 2000
q1 1 6 4 npn

.dc  v1 0e-00 5e-00 5e-03

* Control Statements 
.control
run
plot v(1) v(4) 
plot i(V_u2)
plot i(V_u1)
.endc
.end
