* eeschema netlist version 1.1 (spice format) creation date: tuesday 16 april 2013 03:05:45 pm ist
.include ua741.sub

V_u5 3 8 0
* Plotting option vplot8_1
r3  0 2 100000
r4  3 2 100000
* Plotting option vplot8_1
V_u1 6 4 0
V_u2 4 5 0
r2  2 5 100000
v1  7 0 100m
r1  6 7 1000
x1  4 0 8 ua741

.dc  v1 0e-00 5e-00 5e-03

* Control Statements 
.control
run
plot i(V_u5)
plot v(2) 
plot v(8) 
plot i(V_u1)
plot i(V_u2)
.endc
.end
