* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 11:41:09 am ist

* Plotting option vplot8_1
r2  4 0 1000
* 74hc04
r1  3 0 1000
v1  3 0 pulse(0 5 0 1e-8 1e-8 0.25e-6 0.5e-6)
a1 [3] [3_in]  u2adc
a2 3_in 4_out u2
a3 [4_out] [4]  u2dac
.model u2 d_inverter
.model u2adc adc_bridge(in_low=0.8 in_high=2.0)
.model u2dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)

.tran  10e-09 1e-06 0e-00

* Control Statements 
.control
run
plot v(3) v(4) 
.endc
.end
