* eeschema netlist version 1.1 (spice format) creation date: wednesday 19 december 2012 10:47:55 am ist
.include ua741.sub

r4  1 4 1000
* Plotting option vplot8_1
x1  5 1 3 ua741
v1  4 0 sine(0 5 50 0 0)
r3  3 0 10000
r1  5 0 1000
r2  3 5 2000

.tran  100e-06 40e-03 0e-00

* Control Statements 
.control
run
plot v(4) v(3) 
.endc
.end
