* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 04:09:24 pm ist

* Plotting option vplot8_1
V_u2 7 3 0
V_u1 5 6 0
v1  2 0 4
v2  4 0 10v
r2  3 0 3300
r1  4 5 4700
q1 6 2 7 npn

.dc  v1 0e-00 4e-00 5e-03

* Control Statements 
.control
run
plot v(6) v(7) 
plot i(V_u2)
plot i(V_u1)
.endc
.end
